US09340527B2
1-(6-(trans-4-tert-Butylcyclohexyloxy)-2-naphthoyl)piperidine-4-carboxylic acid
To a solution of methyl 1-(6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoyl)piperidine-4-carboxylate (150 mg, 0.33 mmol) in MeOH (5 mL) was added NaOH (68 mg, 1.7 mmol, 5.0 eq) and H2O (0.5 mL). The reaction mixture was stirred at 85° C. for 2 h. After the reaction was cooled to 0° C., the pH of the solution was adjusted to 6 with 3 N HCl. The mixture was filtered and the yellow solid was the desired product 1-(6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoyl)piperidine-4-carboxylic acid (90 mg, yield: 70%). ESI-MS (M+1)+: 438.3. 1HNMR (400 MHz, CD3OD) δ: 7.83˜7.81 (m, 3H), 7.41 (d, 1H), 7.28 (s, 1H), 7.16 (d, 1H), 4.44˜4.37 (m, 1H), 3.30 (br, 2H), 2.65˜2.60 (m, 1H), 2.29˜2.27 (m, 2H), 1.93˜1.90 (m, 4H), 1.44˜1.41 (m, 3H), 1.32˜1.31 (m, 2H), 1.28˜1.25 (m, 3H), 1.15˜1.12 (m, 1H), 0.92 (s, 9H). HPLC: 98.45%

reactant | methyl 1-(6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoyl)piperidine-4-carboxylate | 0.33 mmol, 150 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCC(CC1)C(=O)OC | C28H37NO4
reactant | NaOH | 1.7 mmol, 68 mg, 5.0 eq | [OH-].[Na+]
reactant | H2O | 0.5 mL | O | H2O
reactant | HCl | 3 N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoyl)piperidine-4-carboxylic acid | 90 mg, yield: 70% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCC(CC1)C(=O)O | C27H35NO4
